US06630004B1
Synthesis of 6-[N-(4-Aminophenyl)amino]caproic Acid Dihydrochloride
2 g (7.9 mmol) of 6-[N-(4-nitrophenyl)amino]caproic acid are partially dissolved in 40 ml of ethanol and 2 ml of water in a 150 ml three-necked flask equipped with a thermometer and a reflux condenser. 2 g of palladium-on-charcoal (10% active and 50% moisture) are then introduced, followed by 20 ml of cyclohexene. The mixture is brought to reflux for 2 hours and is then cooled, before being filtered through celite. After having run 4 ml (2.5 eq) of 5N hydrochloric acid onto the filtrate, the latter is evaporated to dryness and the residue is taken up in ethanol and precipitated from acetone. After filtration, 1.9 g of a white product are obtained, i.e. a final yield of 81%.

reactant | 6-[N-(4-nitrophenyl)amino]caproic acid | 7.9 mmol, 2 g | [N+](=O)([O-])C1=CC=C(C=C1)NCCCCCC(=O)O | C12H16N2O4
reactant | water | 2 ml | O | H2O
reactant | cyclohexene | 20 ml | C1=CCCCC1 | C6H10
reactant | hydrochloric acid | 5N, 4 ml, 2.5 eq | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 2 g | [Pd] | Pd
product | 6-[N-(4-Aminophenyl)amino]caproic Acid Dihydrochloride | yield of 81% | Cl.Cl.NC1=CC=C(C=C1)NCCCCCC(=O)O | InChI=1S/C12H18N2O2.2ClH/c13-10-5-7-11(8-6-10)14-9-3-1-2-4-12(15)16;;/h5-8,14H,1-4,9,13H2,(H,15,16);2*1H
